US07115611B2
B] [4-Cyclopropyl-2-(3-trifluoromethyl-phenyl)-pyrimidin-5-yl]-methanol
1.250 g (3.717 mmol) of the above prepared 4-cyclopropyl-2-(3-trifluoromethyl-phenyl)-pyrimidine-5-carboxylic acid ethyl ester in 19 ml of abs. THF was cooled down to −15° C. and reacted with 11.2 ml of DIBAL-H-solution (1.0 M in toluene, 3 eq.) for 1/2 h. Careful quenching with ice/HCl dil., twofold extraction with AcOEt, washing with water, drying over sodium sulfate, and evaporation of the solvents left a crude product which was purified by flash chromatography (SiO2, hexane/AcOEt=1/1l) to yield finally 1.096 g of the title compound as white solid of mp. 108–09° C.

reactant | 4-cyclopropyl-2-(3-trifluoromethyl-phenyl)-pyrimidine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NC(=NC1)C1=CC(=CC=C1)C(F)(F)F)C1CC1 | C17H15F3N2O2
reactant | DIBAL-H | 1.0 M, 11.2 ml, 3 eq. | CC(C)C[AlH]CC(C)C
solvent | THF | C1CCOC1 | C4H8O
product | [4-Cyclopropyl-2-(3-trifluoromethyl-phenyl)-pyrimidin-5-yl]-methanol | 1.096 g | C1(CC1)C1=NC(=NC=C1CO)C1=CC(=CC=C1)C(F)(F)F | C15H13F3N2O
